US04769386
A solution of 5-carbethoxymethyl-1,4-dimethyl-2-(4-methoxybenzylthio)imidazole (2 g, 6 mmoles) in methanol (15 ml) was cooled in an acetone/dry ice bath and treated with liquid ammonia (15 ml). The mixture was warmed to 25° C. and concentrated in vacuo to afford 5-(aminocarbonylmethyl)-1,4-dimethyl(-2-(4-methoxybenzylthio)imidazole.

reactant | 5-carbethoxymethyl-1,4-dimethyl-2-(4-methoxybenzylthio)imidazole | 6 mmoles, 2 g | C(=O)(OCC)CC1=C(N=C(N1C)SCC1=CC=C(C=C1)OC)C | C17H22N2O3S
reactant | ammonia | 15 ml | N | H3N
solvent | methanol | 15 ml | CO | CH4O
product | 2-(4-methoxybenzylthio)imidazole | COC1=CC=C(CSC=2NC=CN2)C=C1 | C11H12N2OS
